US04703046
Ethyl propionylacetate (14.4 g.) was added to acetic acid (19 ml.) and stirred at 5° to 10° C. To the solution was added dropwise over 40 minutes about 2/3 volume of an aqueous solution (30 ml.) of sodium nitrite (15 g.), and further water (50 ml.) was added to the solution and stirred at 25° C. for 1.5 hrs. The remaining aqueous solution of sodium nitrite was added dropwise over 10 minutes to the solution and stirred at room temperature for 2 hrs. The reaction mixture was extracted with diethyl ether (50 ml.) twice, and the extract was washed with saturated aqueous sodium bicarbonate (30 ml.) three times and saturated aqueous sodium chloride, dried over magnesium sulfate and filtered. The filtrate was evaporated in vacuo to give ethyl 2-propionyl-2-hydroxyiminoacetate (12 g.).

reactant | Ethyl propionylacetate | 14.4 g | C(CC)(=O)CC(=O)OCC | C7H12O3
reactant | acetic acid | 19 ml | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 30 ml, 15 g | N(=O)[O-].[Na+]
solvent | water | 50 ml | O | H2O
product | ethyl 2-propionyl-2-hydroxyiminoacetate | 12 g | C(CC)(=O)C(C(=O)OCC)=NO | C7H11NO4
